US07507729B2
b) (2-Ethyl-imidazol-1-yl)-acetic acid hydrazide
As described for example 112a, (2-ethyl-imidazol-1-yl)-acetic acid ethyl ester in butanol was reacted with hydrazine hydrate (1.2 equivalents) at 100° C. for 6 h. Evaporation of all volatiles and crystallization from methanol/diisopropylether afforded the title compound as a white solid (yield: 94%). MS: m/e=169.3 [M+H]+.

reactant | (2-ethyl-imidazol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C(=NC=C1)CC)=O | C9H14N2O2
reactant | hydrazine hydrate | 1.2 equivalents | O.NN
solvent | butanol | C(CCC)O | C4H10O
product | (2-Ethyl-imidazol-1-yl)-acetic acid hydrazide | yield: 94% | C(C)C=1N(C=CN1)CC(=O)NN | C7H12N4O
